US06107297
i) 4-Oxobutanoic acid, ethyl ester
Ethyl succinyl cloride (4.1 g) was added to a suspension of 10% palladium on carbon (0.3 g) and 2,6-lutidine (2.9 ml) in dry tetrahydrofuran (100 ml). The mixture was hydrogenated at 3 atmospheres pressure for 24 hours. The reaction mixture was filtered and the filtrate evaporated under reduced pressure. Yield 3.15 g. 1H NMR: δ (CDCl3) 9.82 (s,1H), 4.16 (q,2H), 2.80 (t,2H), 2.63 (t,2H), 1.26 (t,3H).

reactant | Ethyl succinyl cloride | 4.1 g | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | 2,6-lutidine | 2.9 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | 4-Oxobutanoic acid, ethyl ester | O=CCCC(=O)OCC | C6H10O3
